* Voltage sources
V1 1 3 DC
V2 1 3 DC

* Resistors
R1 1 3 1000
R2 3 X 1000
RF X 2 1000

* Operational Amplifier
XU1 3 3 2 OPAMP

* .OP is used to indicate operational point analysis
.OP